US05133965
Sustained Release of SDMC Entrapped Gentamicin From Wet Foam Wound Material Over Time
Foam wound materials containing gentamicin sulfate were prepared as shown in Example 1. Once materials were prepared they were placed onto grid supports and maintained at room temperature. All were covered with a foil wrap. Every 12 hours for nine days, 5 ml of water was applied onto the foam bandage materials and eluent was collected. Two ml samples containing SDMC entrapped gentamicin were assayed for gentamicin antibiotic activity using standard antimicrobial assays. The results are shown in Table X.

reactant | gentamicin sulfate | CC([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)N.CC([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC.C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC[C@H](O3)CN)N)N)N)O.OS(=O)(=O)O
solvent | water | 5 ml | O | H2O
product | Gentamicin | C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC | C21H43N5O7
